* C:\Users\Sony\Documents\GitHub\TC_TP2\Ej1\simulacion_a.asc
XU1 0 N001 VCC -VCC Vout LM324
V1 VCC 0 15
V2 0 -VCC 15
V3 Vin 0 AC 1
R1 N001 Vin {mc(Res1 , tol)}
R2 Vout N001 {mc(Res2, tol)}
R3 0 N001 {mc(Res3, tol)}
R4 0 Vout {mc(Res4, tol)}
;tran 3 startup
.lib LM324.txt
.ac dec 100 10000 10000000
.param Res1=50000
.param Res2=5000
.param Res3=Res1
.param Res4=100000
;dc V3 -1.5 2 0.01
.param tol=0.1
.step param run 1 100 1
.backanno
.end
